US05117057
To a stirred solution of 1-t-butyl-1-benzoylhydrazine (1 g, 0.005M) in toluene (40 ml) cooled to 5° C. was added 3-chloro-2,2-dimethylpropionylchloride (1.2 g, 0.007M) and 50% aq. sodium hydroxide (0.45 g, 0.0056M) so as to maintain the temperature below 10° C. The mixture was warmed to room temperature and stirred 1 hr. The mixture was diluted with hexane (40 ml) and water (10 ml). The white solid product N'-t-butyl-N-(betachloropivaloyl)-N'-benzoylhydrazine was isolated by suction filtration, washed with 50 ml hexane and 50 ml water and- dried.

reactant | 1-t-butyl-1-benzoylhydrazine | 0.005M, 1 g | C(C)(C)(C)N(N)C(C1=CC=CC=C1)=O | C11H16N2O
reactant | 3-chloro-2,2-dimethylpropionylchloride | 0.007M, 1.2 g | ClCC(C(=O)Cl)(C)C | C5H8Cl2O
reactant | sodium hydroxide | 0.0056M, 0.45 g | [OH-].[Na+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 40 ml | CCCCCC | C6H14
solvent | water | 10 ml | O | H2O
product | N'-t-butyl-N-(betachloropivaloyl)-N'-benzoylhydrazine | C(C)(C)(C)N(NC(C(CCl)(C)C)=O)C(C1=CC=CC=C1)=O | C16H23ClN2O2
